US05688808
A solution of 7-tert-butyloxycarbamoyl-1,2-dihydro-2,2,8-trimethylquinoline (114 mg, 0.39 mmol) in 4 mL of ethyl acetate was hydrogenated under an atmosphere of hydrogen with Pd-C 10% (11 mg) at rt for 7 h. Filtration over Celite afforded 60 mg (60%) of 7-tert-butyloxycarbamoyl-1,2,3,4-tetrahydro-2,2,8-trimethylquinoline. The title compound was prepared by General Method 12 (EXAMPLE 147) from 7-tert-butyloxycarbamoyl-1,2,3,4-tetrahydro-2,2,8-trimethylquinoline (60 mg, 0.206 mmol) to afford 30 mg (77%) of 7-amino-1,2,3,4-tetrahydro-2,2,8-trimethylquinoline as a light reddish oil. Data for 7-amino-1,2,3,4-tetrahydro-2,2,8-trimethylquinoline: 1 H NMR (400 MHz, CDCl3) 6.70 (d, J=7.9, 1H), 6.09 (d, J=7.9, 1H), 3.30 (bs, 3H), 2.71 (t, J=6.7, 2H), 1.89 (s, 3H), 1.65 (t, J=6.7, 2H), 1.21 (s, 6H).

reactant | 7-tert-butyloxycarbamoyl-1,2-dihydro-2,2,8-trimethylquinoline | 0.39 mmol, 114 mg | C(C)(C)(C)ONC(=O)C1=CC=C2C=CC(NC2=C1C)(C)C | C17H24N2O2
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 11 mg | [Pd] | Pd
product | 7-tert-butyloxycarbamoyl-1,2,3,4-tetrahydro-2,2,8-trimethylquinoline | 60 mg, 60% | C(C)(C)(C)ONC(=O)C1=CC=C2CCC(NC2=C1C)(C)C | C17H26N2O2
